US06911468B2
(3) Ethyl (2R)-2-{4-[5-methyl-1-(4-octyloxyphenyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoate
To a solution of 4-[5-methyl-1-(4-octyloxyphenyl)-1H-pyrrol-2-yl]phenol (740 mg, 1.96 mmol), ethyl (S)-2-hydroxy-3-phenylpropanoate (570 mg, 2.94 mmol) and triphenylphosphine (770 mg, 2.94 mmol) in toluene (2 ml) was added 1,1′-(azodicarbonyl)dipiperidine (741 mg, 2.94 mmol) and the mixture was stirred at 80° C. for 12 hours. The reaction solution was poured into water and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate anhydride and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=30:1) to give the object compound as an oily substance. 420 mg (yield: 39.6%)

reactant | 4-[5-methyl-1-(4-octyloxyphenyl)-1H-pyrrol-2-yl]phenol | 1.96 mmol, 740 mg | CC1=CC=C(N1C1=CC=C(C=C1)OCCCCCCCC)C1=CC=C(C=C1)O | C25H31NO2
reactant | ethyl (S)-2-hydroxy-3-phenylpropanoate | 2.94 mmol, 570 mg | O[C@H](C(=O)OCC)CC1=CC=CC=C1 | C11H14O3
reactant | triphenylphosphine | 2.94 mmol, 770 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 2.94 mmol, 741 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | Ethyl (2R)-2-{4-[5-methyl-1-(4-octyloxyphenyl)-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoate | yield: 39.6% | CC1=CC=C(N1C1=CC=C(C=C1)OCCCCCCCC)C1=CC=C(O[C@@H](C(=O)OCC)CC2=CC=CC=C2)C=C1 | C36H43NO4
